US05707994
(1) 4-(4-Cyanophenoxy)butanoic acid ethyl ester
4-Cyanophenol (5.0 g) is dissolved in DMF (6 ml), and thereto are added ethyl 4-bromobutanate (7.94 ml) and potassium carbonate (6.4 g), and the mixture is stirred at room temperature for 74 hours. The reaction mixture is poured into water, and the colorless precipitates are collected by filtration and washed with water to give the title compound (9.5 g).

reactant | 4-Cyanophenol | 5.0 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | ethyl 4-bromobutanate | 7.94 ml | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 6.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 4-(4-Cyanophenoxy)butanoic acid ethyl ester | 9.5 g | C(C)OC(CCCOC1=CC=C(C=C1)C#N)=O | C13H15NO3
